US09382226B2
Step B. 2-Fluoro-5-methylamino-4-nitro-benzonitrile
A stirred solution of (5-Bromo-4-fluoro-2-nitro-phenyl)-methyl-amine (0.5 g, 0.0020 mol) in DMF (10 ml) was purged with Argon for 15 min. To the above mixture, Pd2(dba)3 (0.09 g, 0.001 mol), dppf (0.13 g, 0.0024 mol), and zinc cyanide (0.14 g, 0.0012 mol) was added carefully under argon atmosphere. The reaction mixture was heated at 120° C. for 22 h. Cooled to RT, diluted with saturated solution of ammonium chloride, filtered through CELITE® and the filter bed was thoroughly washed with ethyl acetate. The resulting mixture was separated, organic layer was washed with water, brine, dried over Na2SO4, filtered and concentrated under vacuum to afford the crude compound, which was purified by column chromatography to obtain title compound 2-fluoro-5-methylamino-4-nitro-benzonitrile as a brick red solid. C8H6FN3O2; 1H NMR (400 MHz, CdCl3) δ 8.04 (d, J=9.2 Hz, 1H), 7.85 (brs, 1H), 7.11 (d, J=4.8 Hz, 1H), 3.05 (d, J=4.8 Hz, 3H). MS (M+1): 195.1.

reactant | (5-Bromo-4-fluoro-2-nitro-phenyl)-methyl-amine | 0.0020 mol, 0.5 g | BrC=1C(=CC(=C(C1)NC)[N+](=O)[O-])F | C7H6BrFN2O2
reactant | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | ammonium chloride | [Cl-].[NH4+]
catalyst | Pd2(dba)3 | 0.001 mol, 0.09 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | dppf | 0.0024 mol, 0.13 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.[Fe+2]
catalyst | zinc cyanide | 0.0012 mol, 0.14 g | [C-]#N.[Zn+2].[C-]#N
product | 2-fluoro-5-methylamino-4-nitro-benzonitrile | FC1=C(C#N)C=C(C(=C1)[N+](=O)[O-])NC | C8H6FN3O2
